US09255089B2
Methyl 6-(3,5-dimethylisoxazol-4-yl)-3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate (410 mg, 1.36 mmol) was dissolved in THF (10 ml) and to this was added Di-tert-butyl dicarbonate 97% (593.97 mg, 2.72 mmol) followed by 4-(Dimethylamino)pyridine (33.25 mg, 0.27 mmol) and finally Triethylamine (0.57 ml, 4.08 mmol). Reaction was allowed to stir at room temperature under argon for 3 hours, or until complete. Reaction was then diluted in EtAc and aqueous ammonium chloride and extracted with EtAc (3×). Organics were washed with ammonium chloride, water and brine and dried over sodium sulfate before evaporating to dryness. Crude material was purified by silica gel chromatography (EtAc/Hexanes as the eluent) to provide 1-tert-butyl 4-methyl 6-(3,5-dimethylisoxazol-4-yl)-3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-1,4-dicarboxylate as an opaque oil.

reactant | Methyl 6-(3,5-dimethylisoxazol-4-yl)-3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate | 1.36 mmol, 410 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(N2C)=O)C1)C(=O)OC)C | C15H15N3O4
reactant | Di-tert-butyl dicarbonate | 2.72 mmol, 593.97 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Triethylamine | 4.08 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | 4-(Dimethylamino)pyridine | 0.27 mmol, 33.25 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-tert-butyl 4-methyl 6-(3,5-dimethylisoxazol-4-yl)-3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-1,4-dicarboxylate | CC1=NOC(=C1C=1C=C(C2=C(N(C(N2C)=O)C(=O)OC(C)(C)C)C1)C(=O)OC)C | C20H23N3O6
